* c:\fossee\esim\library\subcircuitlibrary\lzc_subcircuit\lzc_subcircuit.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ lzc
* u3  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u4  net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u5  net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ dac_bridge_5
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ port
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ ] [net-_u1-pad21_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u3
a3 [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u4
a4 [net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ ] [net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ ] u5
* Schematic Name:                             lzc, NgSpice Name: lzc
.model u1 lzc(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
