* c:\users\chaitanya\esim-workspace\lzc_test\lzc_test.cir

.include LZC_subcircuit.sub
x1 in15 in14 in13 in12 in11 in10 in9 in8 in7 in6 in5 in4 in3 in2 in1 in0 out3 out2 out1 out0 all_zeros LZC_subcircuit
v1  in7 gnd pulse(0 0 0 0 0 100n 200n)
v4  in6 gnd pulse(0 0 0 0 0 100n 200n)
v6  in5 gnd pulse(0 0 0 0 0 100n 200n)
v8  in4 gnd pulse(0 0 0 0 0 100n 200n)
v10  in3 gnd pulse(0 5 60n 0 0 10n 100n)
v12  in2 gnd pulse(0 0 0 0 0 100n 200n)
v14  in1 gnd pulse(0 0 0 0 0 100n 200n)
v16  in0 gnd pulse(0 5 70n 0 0 10n 100n)
v2  in8 gnd pulse(0 5 50n 0 0 10n 100n)
v3  in9 gnd pulse(0 0 0 0 0 100n 200n)
v5  in10 gnd pulse(0 0 0 0 0 100n 200n)
v7  in11 gnd pulse(0 5 40n 0 0 10n 100n)
v9  in12 gnd pulse(0 5 30n 0 0 10n 100n)
v11  in13 gnd pulse(0 0 0 0 0 100n 200n)
v13  in14 gnd pulse(0 5 20n 0 0 10n 100n)
v15  in15 gnd pulse(0 5 10n 0 0 10n 100n)
* u17  out3 plot_v1
* u18  out2 plot_v1
* u19  out1 plot_v1
* u20  out0 plot_v1
* u16  in15 plot_v1
* u13  in14 plot_v1
* u11  in13 plot_v1
* u9  in12 plot_v1
* u7  in11 plot_v1
* u5  in10 plot_v1
* u4  in9 plot_v1
* u2  in8 plot_v1
* u15  in0 plot_v1
* u14  in1 plot_v1
* u12  in2 plot_v1
* u10  in3 plot_v1
* u8  in4 plot_v1
* u6  in5 plot_v1
* u3  in6 plot_v1
* u1  in7 plot_v1
* u21  all_zeros plot_v1
.tran 1e-09 100e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth =3
plot v(out3) +6v(out2) +12 v(out1) +18 v(out0) +24  v(all_zeros)

plot v(in15) + 6 v(in14) + 12 v(in13) + 18  v(in12) + 24 v(in11) + 30  v(in10)+ 36 v(in9)+42v(in8)+48v(in7)+54v(in6)+60v(in5)+66v(in4)+72v(in3)+78v(in2)+84v(in1)+90v(in0)

.endc
.end
